### PR TITLE
feat: statement of Serre's approximation lemma

### PR DESCRIPTION
**Pull request by kckennylau**
Statement of [Lemma 80](https://kbuzzard.github.io/ClassFieldTheory/blueprint/sect0003.html#lem:serre_approx)

two new objects introduced here:
* IsFilterComplete: a generalisation of [IsAdicComplete](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/AdicCompletion/Basic.html#IsAdicComplete)
* Subrep: a bundled version of [Rep.subrepresentation](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RepresentationTheory/Rep.html#Rep.subrepresentation)

### CODE REVIEW

File: ClassFieldTheory.lean [hunk 1]
```diff
@@ -56,11 +61,13 @@ import ClassFieldTheory.Mathlib.LinearAlgebra.Quotient.Card
 import ClassFieldTheory.Mathlib.ModuleCatExact
 import ClassFieldTheory.Mathlib.Order.Filter.Bases.Monotone
 import ClassFieldTheory.Mathlib.RepresentationTheory.Basic
+import ClassFieldTheory.Mathlib.RepresentationTheory.Homological.GroupCohomology.Basic
```
[the remark this answers is not in the document]
Comment (kckennylau) [reply ClassFieldTheory.lean]: * https://github.com/kbuzzard/ClassFieldTheory/commit/32650b5d04db73682a480ba2806d4e8811aa79d2
* https://github.com/kbuzzard/ClassFieldTheory/commit/351b0d9840c03efe7b745350767b17ee15216046
* https://github.com/kbuzzard/ClassFieldTheory/commit/fe321969cf9c6469b509b81b794dab1e107bbc40

File: ClassFieldTheory/Cohomology/Subrep/ShortExact.lean [hunk 2]
```diff
@@ -0,0 +1,60 @@
...
+
+variable {k G : Type u} [CommRing k] [Monoid G] {A : Rep k G} (w w₁ w₂ : Subrep A)
+
+open CategoryTheory ShortComplex ShortExact
+
+-- move
+theorem CategoryTheory.ShortComplex.rep_exact_iff
+    {k G : Type u} [CommRing k] [Monoid G] {S : ShortComplex (Rep k G)} :
+    S.Exact ↔ ∀ x₂, S.g x₂ = 0 → ∃ x₁, S.f x₁ = x₂ := by
+  rw [← exact_map_iff_of_faithful (F := forget₂ _ (ModuleCat k)), moduleCat_exact_iff]; rfl
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/Subrep/ShortExact.lean]:
```suggestion
instance : HasForget₂ (Rep k G) Ab where
  forget₂ := forget₂ (Rep k G) (ModuleCat k) ⋙ (forget₂ _ _)

instance : (forget₂ (Rep k G) Ab).Additive := ⟨rfl⟩

instance : (forget₂ (Rep k G) Ab).PreservesHomology := sorry

theorem CategoryTheory.ShortComplex.rep_exact_iff
    {k G : Type u} [CommRing k] [Monoid G] {S : ShortComplex (Rep k G)} :
    S.Exact ↔ ∀ x₂, S.g x₂ = 0 → ∃ x₁, S.f x₁ = x₂ :=
  CategoryTheory.ShortComplex.exact_iff_of_hasForget S
```

File: ClassFieldTheory/Cohomology/SerreApproximation.lean [hunk 3]
```diff
@@ -0,0 +1,232 @@
...
+
+namespace Rep
+variable {k G : Type u} [CommRing k] [Monoid G] (A : Rep k G)
+
+noncomputable def piLeft (α : Type u) : Rep k G where
+  V := .of _ <| α → A
+  ρ :=
+  { toFun g := ModuleCat.ofHom <| .pi fun i ↦ A.ρ g ∘ₗ .proj i
+    map_one' := by simp only [map_one, CategoryTheory.End.one_def]; rfl
+    map_mul' _ _ := by simp only [map_mul, CategoryTheory.End.mul_def]; rfl }
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/SerreApproximation.lean]:
```suggestion
```

File: ClassFieldTheory/Cohomology/IsFilterComplete.lean [hunk 4]
```diff
@@ -0,0 +1,142 @@
...
+end Completion
+
+def toCompletion : M →+ Completion F where
+  toFun x := ⟨fun _ ↦ x, fun _ _ _ ↦ rfl⟩
+  map_zero' := rfl
+  map_add' _ _ := rfl
+
+theorem toCompletion_injective_iff_isFilterHausdorff :
+    Function.Injective (toCompletion F) ↔ IsFilterHasudorff F :=
+  sorry -- may need more assumptions?
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/IsFilterComplete.lean]: This one is Ok:
```
theorem toCompletion_injective_iff_isFilterHausdorff :
    Function.Injective (toCompletion F) ↔ IsFilterHasudorff F := by
  refine ⟨fun h ↦ ⟨fun m hm ↦ h <| Subtype.val_injective ?_⟩, fun ⟨h⟩ a b hab ↦ ?_⟩
  · ext j
    simpa [toCompletion] using hm j
  · rw [← sub_eq_zero]
    apply h
    simp_rw [← QuotientAddGroup.mk_eq_mk_iff]
    exact congr_fun (Subtype.ext_iff.1 hab)
```

File: ClassFieldTheory/Cohomology/IsFilterComplete.lean [hunk 5]
```diff
@@ -0,0 +1,142 @@
...
+
+theorem toCompletion_surjective_iff_isFilterPrecomplete :
+    Function.Surjective (toCompletion F) ↔ IsFilterPrecomplete F :=
+  sorry -- may need more assumptions?
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/IsFilterComplete.lean]: This one I think is false, at least I got stuck on the proof:
```
theorem toCompletion_surjective_iff_isFilterPrecomplete :
    Function.Surjective (toCompletion F) ↔ IsFilterPrecomplete F := by
  constructor
  · intro h
    constructor
    intro f hf
    specialize h ⟨fun j ↦ f j, ?_⟩
    · intro i j h
      specialize hf i j h
      simp
      rw [← QuotientAddGroup.mk_eq_mk_iff] at hf
      /-
      h : i ≤ j
      hf : ↑(f i) = ↑(f j)
      ⊢ ↑(f i) = ↑(f j)

      but goal is equality in M / (F i + F j) and hypothesis is equality in M / F i
      which is weaker
      -/
      sorry
    · sorry
  · sorry
```
We know i <= j but can't deduce F j <= F i which is what I seemed to need. I'm reluctant to merge with a false sorry.

Comment (kckennylau) [reply ClassFieldTheory/Cohomology/IsFilterComplete.lean]: done
